US07259157B2
Benzyl 4-fluoro-4-{[(4-hydroxybenzoyl)amino]methyl}piperidine-1-carboxylate
4-Hydroxy benzoic acid was coupled to benzyl 4-(aminomethyl)-4-fluoropiperidine-1-carboxylate according to the procedure for EXAMPLE 1.

reactant | 4-Hydroxy benzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | benzyl 4-(aminomethyl)-4-fluoropiperidine-1-carboxylate | NCC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)F | C14H19FN2O2
product | Benzyl 4-fluoro-4-{[(4-hydroxybenzoyl)amino]methyl}piperidine-1-carboxylate | FC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)CNC(C1=CC=C(C=C1)O)=O | C21H23FN2O4
